US07393867B2
Preparation of 2-bromo-6H-pyrrolo[3,2-d]thiazole-5-carboxylic acid
Add KOH (1.07 gm, 2 eq) to a mixture of 2-bromo-6H-pyrrolo[3,2-d]thiazole-5-carboxylic acid ethyl ester (2.6 gm, 9.38 mmol) in THF (15 ml) and water (20 ml), and then heat at 100° C. for 1 hr. Allow to stand overnight at room temperature and collect the crystalline solids by filtration (weight 1.7 gm). Concentrate the aqueous solution in vacuo, and combine the residue with the previously isolated crystalline solid. Acidify with acetic acid in methanol to provide the title compound (2.31 g).

reactant | KOH | 1.07 gm, 2 eq | [OH-].[K+]
reactant | 2-bromo-6H-pyrrolo[3,2-d]thiazole-5-carboxylic acid ethyl ester | 9.38 mmol, 2.6 gm | C(C)OC(=O)C=1CC=2N=C(SC2N1)Br | C8H7BrN2O2S
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 2-bromo-6H-pyrrolo[3,2-d]thiazole-5-carboxylic acid | 2.31 g | BrC=1SC2=C(N1)CC(=N2)C(=O)O | C6H3BrN2O2S
